US05998437
A mixture of 27.9 g of ethyl 1-benzyl-6-chlorobenzimidazol-2-carboxylate, 17.8 g of 1-[3-(imidazol-1-yl)propyl]-5-aminoindole, 8 g of sodium methylate and 600 ml of toluene was stirred at 100° C. for 1.5 hours. The reaction mixture was cooled to room temperature, the crystals being separated were collected by filtration and washed with toluene. Thus obtained crystals were dissolved in 500 ml of chloroform, then 100 ml of water was added and the mixture was filtrated with Celite. The chloroform layer was taken by separation, after washed with water, the chloroform portion layer was dried with anhydrous magnesium sulfate, and the solvent was removed by distillation to obtain brown oily product. This oily product was dissolved in methanol, further added n-hexane and the crystals being separated were collected by filtration, recrystallized from methanol and dried. There was obtained 31.8 g of 1-benzyl-6-chloro-2-{1-[3-(imidazol-1-yl)propyl]indol-5-ylamino-carbonyl}benzimidazole.

reactant | ethyl 1-benzyl-6-chlorobenzimidazol-2-carboxylate | 27.9 g | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)Cl)C(=O)OCC | C17H15ClN2O2
reactant | 1-[3-(imidazol-1-yl)propyl]-5-aminoindole | 17.8 g | N1(C=NC=C1)CCCN1C=CC2=CC(=CC=C12)N | C14H16N4
reactant | sodium methylate | 8 g | C[O-].[Na+]
reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 1-benzyl-6-chloro-2-{1-[3-(imidazol-1-yl)propyl]indol-5-ylamino-carbonyl}benzimidazole | 31.8 g | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)Cl)C(=O)NC=2C=C1C=CN(C1=CC2)CCCN2C=NC=C2 | C29H25ClN6O
